US04661505
Following the procedure of Example 15, 3.75 g. of ethyl 6-(4-benzylphenyl)-6-bromo-hexanoate and 1.94 g. of 2,4-dihydroxyacetophenone were reacted to provide the intermediate ethyl hexanoate derivative which was then hydrolyzed to provide 0.95 g. of the title product as an oil.

reactant | ethyl 6-(4-benzylphenyl)-6-bromo-hexanoate | C(C1=CC=CC=C1)C1=CC=C(C=C1)C(CCCCC(=O)OCC)Br | C21H25BrO2
reactant | 2,4-dihydroxyacetophenone | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
product | ethyl hexanoate | C(CCCCC)(=O)OCC | C8H16O2
